US07989457B2
Step D. 3-{4-[1-(4-Bromo-3-methyl-phenyl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester
A solution of 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester (805 mg, 3.61 mmol) and 1-(4-Bromo-3-methyl-phenyl)-5-methyl-hexan-1-ol (824 mg, 2.89 mmol) in toluene (15.0 mL) was degassed and filled with nitrogen for 3 times. Tributylphosphine (1.1 mL, 4.33 mmol) was added to the reaction mixture under nitrogen at 0° C., followed by addition of 1,1′-(azodicarbonyl)-dipiperidine (1.1 g, 4.33 mmol). The reaction mixture was allowed to warm to room temperature and stirred over night, the mixture was loaded on silica gel column. Chromatography gave the title compound (890 mg, 1.82 mmol).

reactant | 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester | 3.61 mmol, 805 mg | COC(CCNC(C1=CC=C(C=C1)O)=O)=O | C11H13NO4
reactant | 1-(4-Bromo-3-methyl-phenyl)-5-methyl-hexan-1-ol | 2.89 mmol, 824 mg | BrC1=C(C=C(C=C1)C(CCCC(C)C)O)C | C14H21BrO
reactant | Tributylphosphine | 4.33 mmol, 1.1 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 4.33 mmol, 1.1 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 15.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[1-(4-Bromo-3-methyl-phenyl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester | 1.82 mmol, 890 mg | COC(CCNC(C1=CC=C(C=C1)OC(CCCC(C)C)C1=CC(=C(C=C1)Br)C)=O)=O | C25H32BrNO4
